US06635657B1
A. N-(5-Chloropyridin-2-yl)-5-(methoxycarbonyl)-2-nitrobenzamide
Using a similar procedure to that described in Example 8-A, 5-methoxycarbonyl-2-nitrobenzoic acid (20 g, 89 mmol) and 2-amino-5-chloropyridine (11 g, 85 mmol) afforded, after recrystallization from toluene, 23.6 g (83%) of the title compound.

reactant | 5-methoxycarbonyl-2-nitrobenzoic acid | 89 mmol, 20 g | COC(=O)C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C9H7NO6
reactant | 2-amino-5-chloropyridine | 85 mmol, 11 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | N-(5-Chloropyridin-2-yl)-5-(methoxycarbonyl)-2-nitrobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)[N+](=O)[O-])=O | C14H10ClN3O5
